US20010001799A1
A solution of the ethyl (RS)-(4-cyano-phenylamino)-(3-ethyl-4-hydroxy-phenyl)-acetate (400 mg, 1.23 mmol) described in Example 180.1, ethylene carbonate (110 mg, 1.23 mmol) and tetrabutylammonium bromide (264 mg, 1.23 mmol) in DMF (0.6 ml) was heated to 155° C. for 6 h. The reaction mixture was concentrated and the residue was purified by chromatography (SiO2, hexane/EtOAc 9:1). Ethyl (RS)-(4-cyano-phenylamino)-[3-ethyl-4-(2-hydroxy-ethoxy)-phenyl]-acetate (111 mg, 24%) was obtained as a yellow oil.

reactant | ethyl (RS)-(4-cyano-phenylamino)-(3-ethyl-4-hydroxy-phenyl)-acetate | 1.23 mmol, 400 mg | C(#N)C1=CC=C(C=C1)NC(C(=O)OCC)C1=CC(=C(C=C1)O)CC | C19H20N2O3
reactant | ethylene carbonate | 1.23 mmol, 110 mg | C1(OCCO1)=O | C3H4O3
catalyst | tetrabutylammonium bromide | 1.23 mmol, 264 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 0.6 ml | CN(C)C=O | C3H7NO
product | Ethyl (RS)-(4-cyano-phenylamino)-[3-ethyl-4-(2-hydroxy-ethoxy)-phenyl]-acetate | 111 mg, 24% | C(#N)C1=CC=C(C=C1)NC(C(=O)OCC)C1=CC(=C(C=C1)OCCO)CC | C21H24N2O4
